US07576215B2
4-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}BENZOIC ACID
The title compound was prepared from [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone and 4-carboxyphenyl boronic acid, following the procedure of Example 519: MS (ESI) m/z 514; MS (ESI) m/z 512.

reactant | [4-(3-hydroxy-phenyl)-8-trifluoromethylquinolin-3-yl]-phenyl methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 4-carboxyphenyl boronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
product | 4-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}BENZOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2=CC=C(C(=O)O)C=C2)C=CC1)C(F)(F)F | C30H18F3NO4
